US09388185B2
Step 3. 4-(4-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)phenyl)-1-methylpiperazin-2-one
The compound was prepared by using procedures analogous to those described for the synthesis of Example 53, Step 2 starting from 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine and 1-methyl-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperazin-2-one. LCMS calculated for C27H30N5O3 (M+H)+: m/z=472.2. Found 472.1.

reactant | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1 | C16H16BrN3O2
reactant | 1-methyl-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperazin-2-one | CN1C(CN(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C17H25BN2O3
product | 4-(4-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)phenyl)-1-methylpiperazin-2-one | COC=1C=C(CCC=2N=C3C(=NC2)NC(=C3)C3=CC=C(C=C3)N3CC(N(CC3)C)=O)C=C(C1)OC | C27H29N5O3
